US04507290
14.6 g of β-(5-methyl-2-furyl) acrylic acid, prepared in accordance with the procedures of Example 1, were dissolved in 100 ml H2O containing 4 g of NaOH. 10 g of Raney nickel alloy were then added. The resulting suspension was stirred in an ice-bath and a solution of 8 g of NaOH and 30 ml H2O was slowly added to the stirred solution, while the temperature thereof is maintained at below 20° C. On completion of the addition of the NaOH to the reaction mixture the temperature was permitted to rise slowly to 30° C. The reaction mixture was maintained at this temperature for 2 hours. Thereafter the reaction mixture was filtered with the filtrate being acidified with diluted HCl and extracted with ethyl acetate. The resulting extract was washed with water until neutral, dried and evaporated. The residue, on recrystallization from petroleum ether (boiling point--40°-60° C.), yielded 6.7 g (45% yield) of β-(5-methyl-2-furyl) propionic acid. Chromatography on the mother liquor on a column of silica gel and eluting with petroleum ether (boiling point--40°-60° C.) gave a further yield of 2.5 g (17%) of the pure acid melting at 56°-58° C.

reactant | β-(5-methyl-2-furyl) acrylic acid | 14.6 g | CC1=CC=C(O1)C=CC(=O)O | C8H8O3
solvent | H2O | 100 ml, 4 g | O | H2O
solvent | NaOH | [OH-].[Na+]
catalyst | Raney nickel | 10 g | [Ni] | Ni
solvent | H2O | 30 ml | O | H2O
solvent | NaOH | 8 g | [OH-].[Na+]
product | β-(5-methyl-2-furyl) propionic acid | 6.7 g, 45% yield | CC1=CC=C(O1)CCC(=O)O | C8H10O3
